US06150377
1B. [6-Amino-3-(4-chloro-benzoyl)-cyclohexa-2,4-dienyl]-(3-iodo-phenyl)-methanone
5-[2-(4-Chloro-phenyl)-[1,3]dioxolan-2-yl]-3-(3-iodo-phenyl)-benzo[c]isoxazole (65.4 g, 130 mMol) was dissolved in a solution of tetrahydrofuran (THF) (500 mL) and DCM (100 mL). To this solution, was added 500 mL of titanium(III) chloride (10 wt. % solution in 20-30 wt. % hydrochloric acid (HCl)) and the reaction mixture was stirred for 1 hour. An additional 100 mL of titanium(III) chloride (10 wt. % solution in 20-30 wt. % HCl) was added to the reaction mixture and the reaction mixture was stirred for 2.5 hours. The reaction mixture was then poured into ice water and the resulting heterogeneous solution was extracted with DCM. The DCM layer was successively washed with aqueous saturated NaHCO3 and brine. The DCM layer was dried over MgSO4, filtered and concentrated under vacuum to give titled compound as an orange oil (60 g). The oil was used without further purification.

reactant | 5-[2-(4-Chloro-phenyl)-[1,3]dioxolan-2-yl]-3-(3-iodo-phenyl)-benzo[c]isoxazole | 130 mMol, 65.4 g | ClC1=CC=C(C=C1)C1(OCCO1)C1=CC=2C(=NOC2C2=CC(=CC=C2)I)C=C1 | C22H15ClINO3
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium(III) chloride | 500 mL | [Cl-].[Ti+3].[Cl-].[Cl-]
catalyst | titanium(III) chloride | 100 mL | [Cl-].[Ti+3].[Cl-].[Cl-]
product | [6-Amino-3-(4-chloro-benzoyl)-cyclohexa-2,4-dienyl]-(3-iodo-phenyl)-methanone | 60 g | NC1C=CC(=CC1C(=O)C1=CC(=CC=C1)I)C(C1=CC=C(C=C1)Cl)=O | C20H15ClINO2
